US06407112B1
(S)-2a-(3-methoxycarbonylpropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
(S)-2a-(3-carboxypropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (7.00 g, 27 mmol) was dissolved in methanol (200 ml). Then, 36% hydrochloric acid 0.1 ml was added thereto and stirred at room temperature for two days. The solvent was evaporated from the reaction mixture, and ethyl acetate and water were added to the resulting residue. A reaction product was extracted with ethyl acetate, and the extracted product was washed with saturated saline solution, successively dried over anhydrous sodium sulfate, followed by evaporating the solvent. The resulting product was crystallized from diisopropyl ether, whereby 6.89 g (yield 93%) of the above-described object compound could be obtained.

reactant | (S)-2a-(3-carboxypropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 27 mmol, 7.00 g | C(=O)(O)CCC[C@]12C(NC=3C=CC=C(C13)CCC2)=O | C15H17NO3
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 200 ml | CO | CH4O
product | (S)-2a-(3-methoxycarbonylpropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 6.89 g, yield 93% | COC(=O)CCC[C@]12C(NC=3C=CC=C(C13)CCC2)=O | C16H19NO3
